US08008296B2
[4-(Morpholine-4-sulfonyl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared from 4-(morpholine-4-sulfonyl)-benzoic acid (407 mg, 1.5 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (CAS 51207-66-0)(193 mg, 1.2 mmol) in a manner substantially similar to Procedure G to provide 175 mg (34%) of the title compound. MS (ES+) 408.3 (M+H)+.

reactant | 4-(morpholine-4-sulfonyl)-benzoic acid | 1.5 mmol, 407 mg | N1(CCOCC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C11H13NO5S
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 1.2 mmol, 193 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
product | [4-(Morpholine-4-sulfonyl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 175 mg, 34% | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C20H29N3O4S
